US06660744B1
A solution containing cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.1 g, 0.000246 mol), α,α-dimethylphenylacetic acid (0.045 g, 0.000271 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.071 g, 0.000369 mol) and 1-hydroxy-7-azabenzotriazole (0.0037 g, 0.000271 mol) in anhydrous N,N-Dimethylformamide (5 mL) was stirred for 5 min., N,N-diisopropylethylamine (0.098 g, 0.00076 mol) was added dropwise and stirring under an atmosphere of nitrogen was continued for 16 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-2-methyl-2-phenylpropanamide diacetate (0.014 g, 0.000021 mol) as a white solid.

reactant | cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000246 mol, 0.1 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | α,α-dimethylphenylacetic acid | 0.000271 mol, 0.045 g | CC(C(=O)O)(C)C1=CC=CC=C1 | C10H12O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000369 mol, 0.071 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.000271 mol, 0.0037 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethylamine | 0.00076 mol, 0.098 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-2-methyl-2-phenylpropanamide diacetate | 0.000021 mol, 0.014 g | C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(C(C)(C2=CC=CC=C2)C)=O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C32H40N8O.2C2H4O2/c1-32(2,23-7-5-4-6-8-23)31(41)36-24-11-9-22(10-12-24)28-27-29(33)34-21-35-30(27)40(37-28)26-15-13-25(14-16-26)39-19-17-38(3)18-20-39;2*1-2(3)4/h4-12,21,25-26H,13-20H2,1-3H3,(H,36,41)(H2,33,34,35);2*1H3,(H,3,4)/t25-,26+;;
